MM3 (VOUT1 net17 VDD VDD) pmos4
MM2 (net17 net17 VDD VDD) pmos4
MM7 (net9 net23 net13 net22) pmos4
MM6 (net15 VSS net13 net22) pmos4
MM5 (net13 net1004 VDD VDD) pmos4
MM1 (VOUT1 net9 VSS VSS) nmos4
MM0 (net17 net15 VSS VSS) nmos4
MM9 (net9 net9 VSS VSS) nmos4
MM8 (net15 net15 VSS VSS) nmos4
MM0 (net1004 VB1 VSS VSS) nmos4
MM8 (VB1 VB1 VSS VSS) nmos4
MM3 (net1004 net1004 VDD VDD) pmos4
MM10 (VB1 net1006 VDD VDD) pmos4
MM11 (net023 net024 VB2 VSS) nmos4
MM8 (net025 net010 net023 VSS) nmos4
MM9 (net024 net024 net023 VSS) nmos4
MM7 (net010 net010 net025 VSS) nmos4
MM2 (VB2 VB2 VSS VSS) nmos4
MM0 (net1006 net025 VSS VSS) nmos4
MM10 (net024 net1006 VDD VDD) pmos4
MM4 (net010 net1006 VDD VDD) pmos4
MM3 (VB2 net1006 VDD VDD) pmos4
MM1 (net1006 net1006 VDD VDD) pmos4
M14 (VIN1 VCLK1 net21 VSS) nmos4
M15 (net22 VCLK2 net23 VSS) nmos4
M13 (net22 VCLK1 VSS VSS) nmos4
M12 (net21 VCLK2 VSS VSS) nmos4
C1 (net23 VOUT1) capacitor
C0 (net22 net21) capacitor