MM3 (VOUT1 net17 VDD VDD) pmos4
MM2 (net17 net17 VDD VDD) pmos4
MM7 (net9 net23 net13 net22) pmos4
MM6 (net15 VSS net13 net22) pmos4
MM5 (net13 net1004 VDD VDD) pmos4
MM1 (VOUT1 net9 VSS VSS) nmos4
MM0 (net17 net15 VSS VSS) nmos4
MM9 (net9 net9 VSS VSS) nmos4
MM8 (net15 net15 VSS VSS) nmos4
MM1 (VB1 VB1 VSS VSS) nmos4
MM0 (net1004 net6 VSS VSS) nmos4
MM8 (net6 net6 VSS VSS) nmos4
MM2 (VB1 net1004 VDD VDD) pmos4
MM3 (net1004 net1004 VDD VDD) pmos4
MM10 (net6 net1006 VDD VDD) pmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB2 net1006 VDD VDD) pmos4
RR0 (net15 VSS) resistor
MM0 (VB2 VB2 VSS VSS) nmos4
MM2 (net1006 VB2 net15 VSS) nmos4
M14 (VIN1 VCLK1 net21 VSS) nmos4
M15 (net22 VCLK2 net23 VSS) nmos4
M13 (net22 VCLK1 VSS VSS) nmos4
M12 (net21 VCLK2 VSS VSS) nmos4
C1 (net23 VOUT1) capacitor
C0 (net22 net21) capacitor