MM3 (VOUT1 VSS net16 VSS) nmos4
MM0 (VB1 net23 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM1 (VOUT1 VB1 VDD VDD) pmos4
MM2 (VB1 VB1 VDD VDD) pmos4
MM8 (net1005 net1005 VSS VSS) nmos4
MM10 (net1005 net1006 VDD VDD) pmos4
MM5 (net014 net014 VSS VSS) nmos4
MM4 (net15 net014 VSS VSS) nmos4
MM2 (net1006 VB2 net15 VSS) nmos4
MM0 (VB2 VB2 VSS VSS) nmos4
MM6 (net014 net1006 VDD VDD) pmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB2 net1006 VDD VDD) pmos4
M14 (VIN1 VCLK1 net21 VSS) nmos4
M15 (net22 VCLK2 net23 VSS) nmos4
M13 (net22 VCLK1 VSS VSS) nmos4
M12 (net21 VCLK2 VSS VSS) nmos4
C1 (net23 VOUT1) capacitor
C0 (net22 net21) capacitor