MM3 (VOUT1 VSS net16 VSS) nmos4
MM0 (net1004 net23 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM1 (VOUT1 net1004 VDD VDD) pmos4
MM2 (net1004 net1004 VDD VDD) pmos4
MM4 (net1004 net1005 VSS VSS) nmos4
MM2 (net1005 net1005 VSS VSS) nmos4
MM10 (neta net1007 VSS VSS) nmos4
MM3 (net1004 net1004 VDD VDD) pmos4
MM1 (net1005 neta VDD VDD) pmos4
MM0 (neta neta VDD VDD) pmos4
MM0 (net1007 net1007 VSS VSS) nmos4
MM1 (net10 net1007 VSS VSS) nmos4
MM2 (net1007 net10 VDD VDD) pmos4
RRF (VDD net1007) resistor
RR0 (VDD net10) resistor
M14 (VIN1 VCLK1 net21 VSS) nmos4
M15 (net22 VCLK2 net23 VSS) nmos4
M13 (net22 VCLK1 VSS VSS) nmos4
M12 (net21 VCLK2 VSS VSS) nmos4
C1 (net23 VOUT1) capacitor
C0 (net22 net21) capacitor