M8 (net4 net4 VSS VSS) nmos4
M2 (net3 net4 VSS VSS) nmos4
M0 (VOUT1 net3 VSS VSS) nmos4
M7 (net3 VIN2 net1 VDD) pmos4
M6 (net4 VIN1 net1 VDD) pmos4
M5 (net1 VB1 VDD VDD) pmos4
M4 (VOUT1 VB1 VDD VDD) pmos4