MM12 (net12 VB1 net37 VDD) pmos4
MM11 (net23 VB1 net36 VDD) pmos4
MM10 (net10 VB1 net35 VDD) pmos4
MM9 (VOUT1 VB1 net34 VDD) pmos4
MM2 (net37 net12 VDD VDD) pmos4
MM1 (net36 net23 VDD VDD) pmos4
MM6 (net35 net12 VDD VDD) pmos4
MM5 (net34 net23 VDD VDD) pmos4
MM14 (net10 net1003 net33 VSS) nmos4
MM13 (VOUT1 net1003 net31 VSS) nmos4
MM3 (net23 net93 net17 VSS) nmos4
MM0 (net12 VOUT1 net17 VSS) nmos4
MM4 (net17 VB2 VSS VSS) nmos4
MM8 (net33 net10 VSS VSS) nmos4
MM7 (net31 net10 VSS VSS) nmos4
MM13 (net9 net1003 VSS VSS) nmos4
MM15 (net1003 net1003 net9 VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
MM2 (net1006 VB3 VSS VSS) nmos4
MM0 (net010 VB3 VSS VSS) nmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB3 net1006 VDD VDD) pmos4
RR0 (VB3 net010) resistor
M10 (net97 VCLK3 VSS VSS) nmos4
M13 (net94 VCLK2 VSS VSS) nmos4
M11 (net97 VCLK4 VOUT1 VSS) nmos4
M15 (net94 VCLK1 VOUT1 VOUT1) nmos4
M16 (VIN1 VCLK2 net95 VSS) nmos4
M12 (net95 VCLK1 VSS VSS) nmos4
M17 (VIN2 VCLK2 net96 VSS) nmos4
M21 (net92 VCLK2 VSS VSS) nmos4
M20 (net92 VCLK1 VSS VSS) nmos4
M18 (net93 VCLK4 net91 VSS) nmos4
M14 (net96 VCLK1 VSS VSS) nmos4
M19 (net91 VCLK3 VSS VSS) nmos4
C3 (net97 VOUT1) capacitor
C1 (VOUT1 net94) capacitor
C2 (VOUT1 net95) capacitor
C6 (net92 net93) capacitor
C5 (net93 net96) capacitor
C7 (VSS net91) capacitor